US04803270
N-(2,4-Dinitro-5-fluorophenyl)glycine ethyl ester (9.32 g), 2% palladium-carbon (50% hydrated) (10 g) and ethanol (200 ml) were charged into an autoclave, and catalytic reduction was carried out at room temperature under an initial pressure of 37 atm. After the reaction was completed, the reaction mixture was filtered, and the filtrate was concentrated to give 6-fluoro-7-amino-1,2-dihydroquinoxalin-2-one (4.0 g; yield, 68.0%).

reactant | N-(2,4-Dinitro-5-fluorophenyl)glycine ethyl ester | 9.32 g | C(C)OC(CNC1=C(C=C(C(=C1)F)[N+](=O)[O-])[N+](=O)[O-])=O | C10H10FN3O6
catalyst | palladium-carbon | 10 g | [C].[Pd]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-fluoro-7-amino-1,2-dihydroquinoxalin-2-one | 4.0 g, 68.0% | FC=1C=C2N=CC(NC2=CC1N)=O | C8H6FN3O
